### PR TITLE
[Merged by Bors] - port logic.embedding.basic

### PR DESCRIPTION
**Pull request by kbuzzard**
From mathlib3port: e50b8c261b0a000b806ec0e1356b41945eda61f7

### CODE REVIEW

**Comment by urkud** [comment]
@kbuzzard Instructions page says to make a commit with `mathlib3port` version first so that one can easily see the diff between auto conversion and final version.

File: Mathlib/Logic/Embedding/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,509 @@
...
+/-- Change the value of an embedding `f` at one point. If the prescribed image
+is already occupied by some `f a'`, then swap the values at these two points. -/
+def setValue {α β} (f : α ↪ β) (a : α) (b : β) [∀ a', Decidable (a' = a)]
+    [∀ a', Decidable (f a' = b)] : α ↪ β :=
+  ⟨fun a' => if a' = a then b else if f a' = b then f a else f a', by
+    intro x y h
+    dsimp at h
+    -- most of this was done with `cc` in Lean 3 but at the time of writing
+    -- it hadn't been ported to Lean 4
+    split_ifs at h with h₁
```
Comment (urkud) [inline Mathlib/Logic/Embedding/Basic.lean:210]: It seems that `split_ifs` splits only the one `ite`, not all. It would be nice if someone who understands Lean 4 meta programming will look into this. @gebner  and @dwrensha, you're listed as the authors of `split_ifs` in Mathlib4.

Comment (urkud) [reply Mathlib/Logic/Embedding/Basic.lean:210]: Moreover, `repeat { split_ifs at h }` does nothing.

Comment (urkud) [reply Mathlib/Logic/Embedding/Basic.lean]: I fixed compile by rewriting the proof but I would prefer to have the old automation here.

**Comment by kbuzzard** [comment]
Thanks Yury for working on this when I was asleep! I've added the commit from the mathlib3port README. This has been marked "awaiting review" but I left several TODOs in the text which are still there.

**Comment by urkud** [comment]
@kbuzzard I see 1 TODO that is still there (about `trans`). I hope that someone will tell us what to do about it.

**Comment by kbuzzard** [comment]
I've added the Trans instance. This was what I was told was the appropriate replacement for the `@[trans]` attribute when I ported `logic.relation`. I think this is ready for review now.

File: Mathlib/Logic/Embedding/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,482 @@
...
+end Function
+
+section Equiv
+
+variable {α : Sort u} {β : Sort v} (f : α ≃ β)
+
+/-- Convert an `α ≃ β` to `α ↪ β`.
+
+This is also available as a coercion `equiv.coe_embedding`.
+The explicit `equiv.to_embedding` version is preferred though, since the coercion can have issues
```
Comment (Ruben-VandeVelde) [inline Mathlib/Logic/Embedding/Basic.lean:52]: Case needs fixing (twice)

File: Mathlib/Logic/Embedding/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,482 @@
...
+/-- Composition of `f : α ↪ β` and `g : β ↪ γ`. -/
+@[simps (config := { simpRhs := true })]
+protected def trans {α β γ} (f : α ↪ β) (g : β ↪ γ) : α ↪ γ :=
+  ⟨g ∘ f, g.injective.comp f.injective⟩
+#align function.embedding.trans Function.Embedding.trans
+
+instance : Trans Embedding Embedding Embedding := ⟨Embedding.trans⟩
+
+@[simp]
+theorem equiv_to_embedding_trans_symm_to_embedding {α β : Sort _} (e : α ≃ β) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Logic/Embedding/Basic.lean:146]: Should this be
```suggestion
theorem equiv_toEmbedding_trans_symm_toEmbedding {α β : Sort _} (e : α ≃ β) :
```

File: Mathlib/Logic/Embedding/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,482 @@
...
+  ⟨fun b => (a, b), fun _ _ h => congr_arg Prod.snd h⟩
+#align function.embedding.sectr Function.Embedding.sectr
+
+/-- If `e₁` and `e₂` are embeddings, then so is `prod.map e₁ e₂ : (a, b) ↦ (e₁ a, e₂ b)`. -/
+def prodMap {α β γ δ : Type _} (e₁ : α ↪ β) (e₂ : γ ↪ δ) : α × γ ↪ β × δ :=
+  ⟨Prod.map e₁ e₂, e₁.injective.Prod_map e₂.injective⟩
+#align function.embedding.prod_map Function.Embedding.prodMap
+
+@[simp]
+theorem coe_prod_map {α β γ δ : Type _} (e₁ : α ↪ β) (e₂ : γ ↪ δ) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Logic/Embedding/Basic.lean:264]:
```suggestion
theorem coe_prodMap {α β γ δ : Type _} (e₁ : α ↪ β) (e₂ : γ ↪ δ) :
```

File: Mathlib/Logic/Embedding/Basic.lean (hunk 2 above)
Comment (urkud) [inline Mathlib/Logic/Embedding/Basic.lean:52]:
```suggestion
This is also available as a coercion `equiv.coeEmbedding`.
The explicit `equiv.toEmbedding` version is preferred though, since the coercion can have issues
```

File: Mathlib/Logic/Embedding/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,482 @@
...
+
+@[simp]
+theorem toFun_eq_coe {α β} (f : α ↪ β) : toFun f = f :=
+  rfl
+#align function.embedding.to_fun_eq_coe Function.Embedding.toFun_eq_coe
+
+@[simp]
+theorem coe_fn_mk {α β} (f : α → β) (i) : (@mk _ _ f i : α → β) = f :=
+  rfl
+#align function.embedding.coe_fn_mk Function.Embedding.coe_fn_mk
```
Comment (urkud) [inline Mathlib/Logic/Embedding/Basic.lean:115]:
```suggestion
theorem coeFn_mk {α β} (f : α → β) (i) : (@mk _ _ f i : α → β) = f :=
  rfl
#align function.embedding.coe_fn_mk Function.Embedding.coeFn_mk
```

File: Mathlib/Logic/Embedding/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,482 @@
...
+
+instance : Trans Embedding Embedding Embedding := ⟨Embedding.trans⟩
+
+@[simp]
+theorem equiv_to_embedding_trans_symm_to_embedding {α β : Sort _} (e : α ≃ β) :
+    e.toEmbedding.trans e.symm.toEmbedding = Embedding.refl _ := by
+  ext
+  simp
+#align function.embedding.equiv_to_embedding_trans_symm_to_embedding
+  Function.Embedding.equiv_to_embedding_trans_symm_to_embedding
```
Comment (urkud) [inline Mathlib/Logic/Embedding/Basic.lean:151]:
```suggestion
  Function.Embedding.equiv_toEmbedding_trans_symm_toEmbedding
```

File: Mathlib/Logic/Embedding/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,482 @@
...
+
+@[simp]
+theorem equiv_symm_to_embedding_trans_to_embedding {α β : Sort _} (e : α ≃ β) :
```
Comment (urkud) [inline Mathlib/Logic/Embedding/Basic.lean:154]:
```suggestion
theorem equiv_symm_toEmbedding_trans_toEmbedding {α β : Sort _} (e : α ≃ β) :
```

File: Mathlib/Logic/Embedding/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,482 @@
...
+    e.symm.toEmbedding.trans e.toEmbedding = Embedding.refl _ := by
+  ext
+  simp
+#align function.embedding.equiv_symm_to_embedding_trans_to_embedding
+  Function.Embedding.equiv_symm_to_embedding_trans_to_embedding
```
Comment (urkud) [inline Mathlib/Logic/Embedding/Basic.lean:159]:
```suggestion
  Function.Embedding.equiv_symm_toEmbedding_trans_toEmbedding
```

File: Mathlib/Logic/Embedding/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,482 @@
...
+    Equiv.embeddingCongr ea ec (f.trans g) =
+      (Equiv.embeddingCongr ea eb f).trans (Equiv.embeddingCongr eb ec g) := by
+  ext
+  simp
+#align equiv.embedding_congr_apply_trans Equiv.embedding_congr_apply_trans
+
+@[simp]
+theorem refl_to_embedding {α : Type _} : (Equiv.refl α).toEmbedding = Embedding.refl α :=
+  rfl
+#align equiv.refl_to_embedding Equiv.refl_to_embedding
```
Comment (urkud) [inline Mathlib/Logic/Embedding/Basic.lean:439]:
```suggestion
theorem refl_toEmbedding {α : Type _} : (Equiv.refl α).toEmbedding = Embedding.refl α :=
  rfl
#align equiv.refl_to_embedding Equiv.refl_toEmbedding
```

File: Mathlib/Logic/Embedding/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,482 @@
...
+
+@[simp]
+theorem trans_to_embedding {α β γ : Type _} (e : α ≃ β) (f : β ≃ γ) :
```
Comment (urkud) [inline Mathlib/Logic/Embedding/Basic.lean:442]:
```suggestion
theorem trans_toEmbedding {α β γ : Type _} (e : α ≃ β) (f : β ≃ γ) :
```

File: Mathlib/Logic/Embedding/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,482 @@
...
+    (e.trans f).toEmbedding = e.toEmbedding.trans f.toEmbedding :=
+  rfl
+#align equiv.trans_to_embedding Equiv.trans_to_embedding
```
Comment (urkud) [inline Mathlib/Logic/Embedding/Basic.lean:445]:
```suggestion
#align equiv.trans_to_embedding Equiv.trans_toEmbedding
```

File: Mathlib/Logic/Embedding/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,482 @@
...
+/-- If `e₁` and `e₂` are embeddings, then so is `prod.map e₁ e₂ : (a, b) ↦ (e₁ a, e₂ b)`. -/
+def prodMap {α β γ δ : Type _} (e₁ : α ↪ β) (e₂ : γ ↪ δ) : α × γ ↪ β × δ :=
+  ⟨Prod.map e₁ e₂, e₁.injective.Prod_map e₂.injective⟩
+#align function.embedding.prod_map Function.Embedding.prodMap
+
+@[simp]
+theorem coe_prodMap {α β γ δ : Type _} (e₁ : α ↪ β) (e₂ : γ ↪ δ) :
+    e₁.prodMap e₂ = Prod.map e₁ e₂ :=
+  rfl
+#align function.embedding.coe_prod_map Function.Embedding.coe_prod_map
```
Comment (urkud) [inline Mathlib/Logic/Embedding/Basic.lean:267]:
```suggestion
#align function.embedding.coe_prod_map Function.Embedding.coe_prodMap
```

File: Mathlib/Logic/Embedding/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,482 @@
...
+  Function.Embedding.equiv_symm_toEmbedding_trans_toEmbedding
+
+/-- Transfer an embedding along a pair of equivalences. -/
+@[simps (config := { fullyApplied := false, simpRhs := true })]
+protected def congr {α : Sort u} {β : Sort v} {γ : Sort w} {δ : Sort x} (e₁ : α ≃ β) (e₂ : γ ≃ δ)
+    (f : α ↪ γ) : β ↪ δ :=
+  (Equiv.toEmbedding e₁.symm).trans (f.trans e₂.toEmbedding)
+#align function.embedding.congr Function.Embedding.congr
+
+/-- A right inverse `surj_inv` of a surjective function as an `embedding`. -/
```
Comment (semorrison) [inline Mathlib/Logic/Embedding/Basic.lean:168]:
```suggestion
/-- A right inverse `surjInv` of a surjective function as an `Embedding`. -/
```

File: Mathlib/Logic/Embedding/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,482 @@
...
+protected noncomputable def ofSurjective {α β} (f : β → α) (hf : Surjective f) : α ↪ β :=
+  ⟨surjInv hf, injective_surjInv _⟩
+#align function.embedding.of_surjective Function.Embedding.ofSurjective
+
+/-- Convert a surjective `embedding` to an `equiv` -/
```
Comment (semorrison) [inline Mathlib/Logic/Embedding/Basic.lean:173]:
```suggestion
/-- Convert a surjective `Embedding` to an `Equiv` -/
```

File: Mathlib/Logic/Embedding/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,482 @@
...
+    rcases h with (⟨rfl, rfl | ⟨_, ⟨hx, rfl⟩ | ⟨h₁, rfl⟩⟩⟩ | ⟨hya, ⟨rfl, ⟨rfl, hyx⟩ |
+      ⟨hxa, hxy | ⟨_, rfl⟩⟩⟩ | ⟨hyb, ⟨rfl, rfl⟩ | ⟨_, ⟨rfl, rfl⟩ | ⟨_, rfl⟩⟩⟩⟩)
+    exacts [rfl, f.injective hx, (h₁ rfl).elim, f.injective hyx.symm, f.injective hxy,
+      (hxa rfl).elim, (hyb rfl).elim, (hya rfl).elim, rfl]⟩
+#align function.embedding.set_value Function.Embedding.setValue
+
+theorem set_value_eq {α β} (f : α ↪ β) (a : α) (b : β) [∀ a', Decidable (a' = a)]
+    [∀ a', Decidable (f a' = b)] : setValue f a b a = b := by
+  simp [setValue]
+#align function.embedding.set_value_eq Function.Embedding.set_value_eq
```
Comment (semorrison) [inline Mathlib/Logic/Embedding/Basic.lean:201]:
```suggestion
theorem setValue_eq {α β} (f : α ↪ β) (a : α) (b : β) [∀ a', Decidable (a' = a)]
    [∀ a', Decidable (f a' = b)] : setValue f a b a = b := by
  simp [setValue]
#align function.embedding.set_value_eq Function.Embedding.setValue_eq
```

File: Mathlib/Logic/Embedding/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,482 @@
...
+
+/-- If `e₁` and `e₂` are embeddings, then so is `sum.map e₁ e₂`. -/
+def sumMap {α β γ δ : Type _} (e₁ : α ↪ β) (e₂ : γ ↪ δ) : Sum α γ ↪ Sum β δ :=
+  ⟨Sum.map e₁ e₂, e₁.injective.sum_map e₂.injective⟩
+#align function.embedding.sum_map Function.Embedding.sumMap
+
+@[simp]
+theorem coe_sum_map {α β γ δ} (e₁ : α ↪ β) (e₂ : γ ↪ δ) : sumMap e₁ e₂ = Sum.map e₁ e₂ :=
+  rfl
+#align function.embedding.coe_sum_map Function.Embedding.coe_sum_map
```
Comment (semorrison) [inline Mathlib/Logic/Embedding/Basic.lean:286]:
```suggestion
theorem coe_sumMap {α β γ δ} (e₁ : α ↪ β) (e₂ : γ ↪ δ) : sumMap e₁ e₂ = Sum.map e₁ e₂ :=
  rfl
#align function.embedding.coe_sum_map Function.Embedding.coe_sumMap
```

File: Mathlib/Logic/Embedding/Basic.lean [hunk 17]
```diff
@@ -0,0 +1,482 @@
...
+to `e ∘ f`. -/
+def arrowCongrRight {α : Sort u} {β : Sort v} {γ : Sort w} (e : α ↪ β) : (γ → α) ↪ γ → β :=
+  piCongrRight fun _ => e
+#align function.embedding.arrow_congr_right Function.Embedding.arrowCongrRight
+
+@[simp]
+theorem arrow_congr_right_apply {α : Sort u} {β : Sort v} {γ : Sort w} (e : α ↪ β) (f : γ ↪ α) :
+    arrowCongrRight e f = e ∘ f :=
+  rfl
+#align function.embedding.arrow_congr_right_apply Function.Embedding.arrow_congr_right_apply
```
Comment (semorrison) [inline Mathlib/Logic/Embedding/Basic.lean:338]:
```suggestion
theorem arrowCongrRight_apply {α : Sort u} {β : Sort v} {γ : Sort w} (e : α ↪ β) (f : γ ↪ α) :
    arrowCongrRight e f = e ∘ f :=
  rfl
#align function.embedding.arrow_congr_right_apply Function.Embedding.arrowCongrRight_apply
```

File: Mathlib/Logic/Embedding/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,482 @@
...
+  left_inv x := by
+    ext
+    simp
+  right_inv x := by
+    ext
+    simp
+#align equiv.embedding_congr Equiv.embeddingCongr
+
+@[simp]
+theorem embedding_congr_refl {α β : Sort _} :
```
Comment (semorrison) [inline Mathlib/Logic/Embedding/Basic.lean:409]:
```suggestion
theorem embeddingCongr_refl {α β : Sort _} :
```
and several others for `embeddingCongr` below.

File: Mathlib/Logic/Embedding/Basic.lean [hunk 19]
```diff
@@ -0,0 +1,482 @@
...
+into a sum of subtypes `{x // p x} ⊕ {x // q x}` such that `¬ p x` is sent to the right. -/
+def subtypeOrLeftEmbedding (p q : α → Prop) [DecidablePred p] :
+    { x // p x ∨ q x } ↪ Sum { x // p x } { x // q x } :=
+  ⟨fun x => if h : p x then Sum.inl ⟨x, h⟩ else Sum.inr ⟨x, x.prop.resolve_left h⟩, by
+    intro x y
+    dsimp only
+    split_ifs <;> simp [Subtype.ext_iff]⟩
+#align subtype_or_left_embedding subtypeOrLeftEmbedding
+
+theorem subtype_or_left_embedding_apply_left {p q : α → Prop} [DecidablePred p]
```
Comment (semorrison) [inline Mathlib/Logic/Embedding/Basic.lean:463]:
```suggestion
theorem subtypeOrLeftEmbedding_apply_left {p q : α → Prop} [DecidablePred p]
```
and below.

File: Mathlib/Logic/Embedding/Basic.lean [hunk 20]
```diff
@@ -0,0 +1,482 @@
...
+
+/-- Change the value of an embedding `f` at one point. If the prescribed image
+is already occupied by some `f a'`, then swap the values at these two points. -/
+def setValue {α β} (f : α ↪ β) (a : α) (b : β) [∀ a', Decidable (a' = a)]
+    [∀ a', Decidable (f a' = b)] : α ↪ β :=
+  ⟨fun a' => if a' = a then b else if f a' = b then f a else f a', by
+    intro x y (h : ite _ _ _ = ite _ _ _)
+    -- This used to be almost automatic with `split_ifs` and `cc`
+    -- split_ifs  at h <;> try subst b <;> try simp only [f.injective.eq_iff] at * <;> cc⟩
+    simp only [ite_eq_iff, eq_ite_iff, and_true, f.injective.eq_iff] at h
```
Comment (semorrison) [inline Mathlib/Logic/Embedding/Basic.lean:191]: Could someone open an issue with a MWE of `split_ifs` behaving differently, so we can track this?

File: Mathlib/Logic/Embedding/Basic.lean (hunk 1 above)
Comment (semorrison) [reply Mathlib/Logic/Embedding/Basic.lean]: I've noted this regression at https://github.com/leanprover-community/mathlib4/issues/760

**Comment by semorrison** [comment]
bros merge

**Comment by semorrison** [comment]
Um, okay. :-)

bors merge
